US08017780B1
Step 7: 4-(2-[4-Amino-2-[(6-bromo-1,3-benzodioxol-5-yl)sulfanyl]-1H-imidazo[4,5-c]pyridin-1-yl]ethyl)piperidine-1-carbaldehyde
To a solution of 2-[(6-bromo-1,3-benzodioxol-5-yl)sulfanyl]-1H-imidazo[4,5-c]pyridin-4-amine (175 mg, 0.480 mmol), 2-(1-formylpiperidin-4-yl)ethyl 4-methylbenzenesulfonate (194 mg, 0.624 mmol), and Cs2CO3 (267 mg, 0.816 mmol) in DMF (3.0 mL) was heated at 85° C. for 10 h. After cooling to RT, the mixture was diluted with water, extracted with ethyl acetate, washed with brine, dried (Na2SO4), filtered, and concentrated in vacuum. The residue was triturated with EtOAc, filtered, and dried to give the title compound (102 mg, 42%): 1H NMR (DMSO-d6) δ 7.94 (s, 1H), 7.72 (d, J=6.0 Hz, 2H), 7.39 (s, 1H), 6.79 (d, J=6.0 Hz, 2H), 6.66 (s, 1H), 6.41 (s, 2H), 6.07 (s, 2H), 4.20 (t, J=6.8 Hz, 2H), 4.10 (brd, J=13.6 Hz, 1H), 3.62 (brd, J=13.2 Hz, 1H), 2.91 (td, J=12.0, 2.4 Hz, 1H), 2.54 (m, 1H), 1.70 (t, J=6.8 Hz, 2H), 1.57-1.42 (m, 3H), 1.03 (m, 1H), 0.94 (m, 1H); LC/MS [M+H]+ 504.07.

reactant | 2-[(6-bromo-1,3-benzodioxol-5-yl)sulfanyl]-1H-imidazo[4,5-c]pyridin-4-amine | 0.480 mmol, 175 mg | BrC=1C(=CC2=C(OCO2)C1)SC=1NC2=C(C(=NC=C2)N)N1 | C13H9BrN4O2S
reactant | 2-(1-formylpiperidin-4-yl)ethyl 4-methylbenzenesulfonate | 0.624 mmol, 194 mg | CC1=CC=C(C=C1)S(=O)(=O)OCCC1CCN(CC1)C=O | C15H21NO4S
reactant | Cs2CO3 | 0.816 mmol, 267 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(2-[4-Amino-2-[(6-bromo-1,3-benzodioxol-5-yl)sulfanyl]-1H-imidazo[4,5-c]pyridin-1-yl]ethyl)piperidine-1-carbaldehyde | 102 mg, 42% | NC1=NC=CC2=C1N=C(N2CCC2CCN(CC2)C=O)SC2=CC1=C(OCO1)C=C2Br | C21H22BrN5O3S
